US04587261
Preparation of N-(methoxycarbonyl)-N'-(2-phenylmethylenecyclohexylidene)-hydrazine
To a solution of 37.2 g (0.2 moles) of 2-phenylmethylenecyclohexan-1-one in 200 ml of anhydrous ethanol a solution of 18.0 g (0.2 moles) of N-methoxycarbonyl hydrazine in 40 ml of anhydrous ethanol is added, under stirring. The reaction mixture is boiled for a short while, then cooled, clarified with activated carbon, filtered and the filtrate is cooled. The separated white crystals are filtered off and dried. 50.63 g of the desired compound are obtained. Yield: 98%.

reactant | 2-phenylmethylenecyclohexan-1-one | 0.2 moles, 37.2 g | C1(=CC=CC=C1)C=C1C(CCCC1)=O | C13H14O
reactant | N-methoxycarbonyl hydrazine | 0.2 moles, 18.0 g | COC(=O)NN | C2H6N2O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | N-(methoxycarbonyl)-N'-(2-phenylmethylenecyclohexylidene)-hydrazine | 50.63 g, Yield: 98% | COC(=O)NN=C1C(CCCC1)=CC1=CC=CC=C1 | C15H18N2O2
